US08912186B2
Commercial 2-aminobenzimidazole was chlorinated with a mixture of hydrogen peroxide and HCl in aqueous solution at rt for 1.5 h. After removal of all volatiles the residue was dissolved in water and the product precipitated by addition of ammonia solution to give a 72% yield of 2-amino-5-chlorobenzimidazole as beige coloured solid.

reactant | 2-aminobenzimidazole | NC=1NC2=C(N1)C=CC=C2 | C7H7N3
reactant | hydrogen peroxide | OO | H2O2
reactant | HCl | Cl | ClH
product | 2-amino-5-chlorobenzimidazole | 72% yield | NC=1NC2=C(N1)C=CC(=C2)Cl | C7H6ClN3
